US06897231B2
C. 4-{2-[3-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))phenoxy]ethyl}-1-acetylpiperazine
1-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))-3-(2-piperazinylethoxy)benzene (0.066 g, 0.169 mmol) was stirred with pyridine (0.50 mL, 6.18 mmol), triethylamine (0.10 mL, 0.717 mmol) and acetic anhydride (0.10 mL, 1.06 mmol) at ambient temperature. After 2 h, ammonium hydroxide (0.50 mL) was added and the mixture stirred for 1 h. The mixture was evaporated and gave the title compound (0.0064 g, 9% yield). 1H NMR (CD3OD) δ 8.71 (s, 1H), 8.35 (s, 1H), 8.08 (dd, 1H), 7.66 (d, 1H), 7.61 (dt, 1H), 7.55 (m, 1H), 7.44 (t, 1H), 7.01 (m, 1H), 4.25 (t, 2H), 3.58 (dt, 4H), 2.85 (t, 2H), 2.60 (dt, 4H), 2.08 (s, 3H). ES-MS (m/z) 432 [M+1]+.

reactant | 1-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))-3-(2-piperazinylethoxy)benzene | 0.169 mmol, 0.066 g | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCN1CCNCC1 | C21H23N7O
reactant | pyridine | 6.18 mmol, 0.50 mL | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.717 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.06 mmol, 0.10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | 0.50 mL | [OH-].[NH4+]
product | 4-{2-[3-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))phenoxy]ethyl}-1-acetylpiperazine | 0.0064 g, 9% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(OCCN2CCN(CC2)C(C)=O)C=CC1 | C23H25N7O2
